US04490371
A two-fold stoichiometric excess of 3% hydrogen chloride in methanol is added to a solution of 1.0 g. of N-cyclohexyl-N-methyl-4-(2-oxo-1,2,3,5-tetrahydroimidazol[2,1-b]quinazolin-7-yl)oxybutyramide in 20 ml methanol. Diethyl ether is added until precipitation is complete. The product is filtered, washed with ether, air dried and recrystallized to give N-cyclohexyl-N-methyl-4-(2-oxo-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-7-yl)oxybutyramide hydrochloride, m.p. 232°-234° C.

reactant | hydrogen chloride | Cl | ClH
reactant | N-cyclohexyl-N-methyl-4-(2-oxo-1,2,3,5-tetrahydroimidazol[2,1-b]quinazolin-7-yl)oxybutyramide | C1(CCCCC1)N(C(CCCOC=1C=C2CN3C(=NC2=CC1)NC(C3)=O)=O)C | C21H28N4O3
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | methanol | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | N-cyclohexyl-N-methyl-4-(2-oxo-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-7-yl)oxybutyramide hydrochloride | Cl.C1(CCCCC1)N(C(CCCOC=1C=C2CN3C(=NC2=CC1)NC(C3)=O)=O)C | InChI=1S/C21H28N4O3.ClH/c1-24(16-6-3-2-4-7-16)20(27)8-5-11-28-17-9-10-18-15(12-17)13-25-14-19(26)23-21(25)22-18;/h9-10,12,16H,2-8,11,13-14H2,1H3,(H,22,23,26);1H
